US05605914
To a stirred solution of 3-amino-3-(4-methoxyphenyl)propionic acid methyl ester hydrochloride (1.50 g, 6.1 mmol) and sodium carbonate (90.65 g, 6.1 mmol) in 40 mL of water was added N-carboethoxyphthalimide (1.34 g, 6.1 mmol) in 12 mL of acetonitrile. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was partially concentrated and this mixture was stirred for 72 hours. The resulting slurry was filtered and the solid was washed with copious amount of water. The solid was dried in vacuo (30° C., <1 mm) to afford 1.70 g (50%) of methyl 3-phthalimido-3-(4-methoxyphenyl)propionate as a white powder. mp 65°-66° C.; 1H NMR (DMSO-d6, 250 MHz) δ 7.83-7.91 (m, 4H), 6.88-7.3 (m, 4H), 5-80 (dd, 1H, J=7.5, 2.5), 3.72 (S, 3H), 3.54 (3, 3H), 3.2-3.6 (m, 2H); 13C NMR (DMSO-d6) δ 170.7, 167.5, 158.7, 134.6, 131.0, 130.5, 128.3, 123.2, 113.9, 55.0, 51.5, 49.4, 35.4. Anal. Calcd for C19H17NO5 : C, 67.25; H, 5.05; N, 4.13; Found: C, 66.96; H, 5.00; N, 4.11.

reactant | 3-amino-3-(4-methoxyphenyl)propionic acid methyl ester hydrochloride | 6.1 mmol, 1.50 g | Cl.COC(CC(C1=CC=C(C=C1)OC)N)=O
reactant | sodium carbonate | 6.1 mmol, 90.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carboethoxyphthalimide | 6.1 mmol, 1.34 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 40 mL | O | H2O
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | methyl 3-phthalimido-3-(4-methoxyphenyl)propionate | 1.70 g, 50% | C1(C=2C(C(N1C(CC(=O)OC)C1=CC=C(C=C1)OC)=O)=CC=CC2)=O | C19H17NO5
